US08877742B2
4-bromo-1,2-dimethyl-1H-pyrrolo[2,3-b]pyridine
NaH (60% in oil dispersion) (1.228 g, 30.7 mmol) was suspended in THF (60 mL) and the mixture cooled to 0° C. A solution of 4-bromo-2-methyl-1H-pyrrolo[2,3-b]pyridine (D24) (3.24 g, 15.35 mmol) in THF (30.0 ml) was added dropwise to the mixture and allowed to stir at that temperature for 15 mins, after which MeI (1.440 mL, 23.03 mmol) was added dropwise. The final mixture was stirred at 0° C. for 15 min and then at RT for ca. 3 hours. The reaction mixture was quenched with NH4Cl solution (ca. 100 mL), extracted with ethyl acetate (50 mL×3). The combined organics were dried over MgSO4 and concentrated. The residue was purified by chromatography on silica, eluting with a gradient of 0-50% ethyl acetate in cyclohexane. The corresponding fractions were combined to give the title compound (2.18 g, approx. 47% purity) which was used without further purification in the next stage. LCMS (A): m/z (M+H)+ 225/227, C9H9BrN2 requires 224/226 (acidic).

reactant | NaH | 30.7 mmol, 1.228 g | [H-].[Na+]
reactant | 4-bromo-2-methyl-1H-pyrrolo[2,3-b]pyridine | 15.35 mmol, 3.24 g | BrC1=C2C(=NC=C1)NC(=C2)C | C8H7BrN2
reactant | MeI | 23.03 mmol, 1.440 mL | CI | CH3I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 30.0 ml | C1CCOC1 | C4H8O
product | 4-bromo-1,2-dimethyl-1H-pyrrolo[2,3-b]pyridine | 2.18 g, approx. 47% | BrC1=C2C(=NC=C1)N(C(=C2)C)C | C9H9BrN2
